US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (2.0 g) as starting compound and 5-(3,5-dimethoxyphenoxy)pentyl chloride (1.4 g) were reacted and treated in the same manner as in Example 168 to give 4-amino-5-chloro-N-((1-(5-(3,5-dimethoxyphenoxy)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 2.0 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-(3,5-dimethoxyphenoxy)pentyl chloride | 1.4 g | COC=1C=C(OCCCCCCl)C=C(C1)OC | C13H19ClO3
product | 4-amino-5-chloro-N-((1-(5-(3,5-dimethoxyphenoxy)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOC2=CC(=CC(=C2)OC)OC)C=C1Cl)OC | C27H38ClN3O5
